US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-bromo-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (44 mg, 0.07 mmol), dimethylamine hydrochloric salt (17 mg, 0.21 mmol), EDC.HCl (20 mg, 0.1 mmol), and HOBt (14 mg, 0.1 mmol) in THF (5 mL) was added DIPEA (0.018 mL, 0.2 mmol) at r.t. The reaction mixture was stirred for 4 h, then concentrated and partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were dried over MgSO4 and concentrated. The residue was purified with Prep-HPLC to give the title compound as a white solid (Yield: 14 mg).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.07 mmol, 44 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)Cl)C)C(NC1=CC(=CC=C12)Cl)=O)OCC(C)C(=O)O | C29H25BrCl2N2O5
reactant | dimethylamine | 0.21 mmol, 17 mg | CNC | C2H7N
reactant | EDC.HCl | 0.1 mmol, 20 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.1 mmol, 14 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.2 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-bromo-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 14 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Br)OC(C)(C)C(N(C)C)=O)=O)C1=C(C=CC(=C1)Cl)C)=O | C31H30BrCl2N3O4
